US07776897B2
Trifluoroacetic acid (3 ml) and water (1 ml) were added to a methylene chloride (3 ml) solution of 3-(2-chlorophenyl)-5-[2-(methoxymethoxy)-1,1-dimethyl-2-phenylethyl]-4-methyl-4H-1,2,4-triazole (173 mg) under ice cooling, followed by stirring at room temperature for 19 hours. Then, the whole was stirred at 40° C. for 3.5 hours, at 50° C. for 2.5 hours and at 60° C. for 65 hours. The reaction mixture was concentrated under reduced pressure and ethyl acetate and a saturated sodium hydrogen carbonate solution were added thereto. The organic layer was dried over anhydrous sodium sulfate and then the solvent was removed by evaporation under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=40:1) to obtain 2-[5-(2-chlorophenyl)-4-methyl-4H-1,2,4-triazol-3-yl]-2-methyl-1-phenylpropan-1-ol (110 mg).

reactant | Trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 1 ml | O | H2O
reactant | 3-(2-chlorophenyl)-5-[2-(methoxymethoxy)-1,1-dimethyl-2-phenylethyl]-4-methyl-4H-1,2,4-triazole | 173 mg | ClC1=C(C=CC=C1)C1=NN=C(N1C)C(C(C1=CC=CC=C1)OCOC)(C)C | C21H24ClN3O2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 2-[5-(2-chlorophenyl)-4-methyl-4H-1,2,4-triazol-3-yl]-2-methyl-1-phenylpropan-1-ol | 110 mg | ClC1=C(C=CC=C1)C=1N(C(=NN1)C(C(O)C1=CC=CC=C1)(C)C)C | C19H20ClN3O
